US06313122B1
Preparation of N1-(4-tert-Butylbenzoyl)-N2-(4-chlorobenzoyl)-1,2-benzenediamine
To a solution of N1-(4-tert-butylbenzoyl)-1,2-benzenediamine (100 mg, 0.37 mmol) in 3 mL methylene chloride was added 4-chlorobenzoyl chloride (95 μL, 0.74 mmol) and excess potassium carbonate. The mixture was stirred 30 min then a 1:1 solution of tetrahydrofuran and 5 N NaOH was added. The resultant mixture was stirred an additional 20 min and diluted with ether. The mixture was washed twice with water, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was sonicated with hexane causing a precipitate to form which was collected by filtration and dried under vacuum to yield 100 mg (66%) of the title compound.

reactant | N1-(4-tert-butylbenzoyl)-1,2-benzenediamine | 0.37 mmol, 100 mg | C(C)(C)(C)C1=CC=C(C(=O)NC=2C(=CC=CC2)N)C=C1 | C17H20N2O
reactant | 4-chlorobenzoyl chloride | 0.74 mmol, 95 μL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | NaOH | 5 N | [OH-].[Na+]
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N1-(4-tert-Butylbenzoyl)-N2-(4-chlorobenzoyl)-1,2-benzenediamine | 100 mg, 66% | C(C)(C)(C)C1=CC=C(C(=O)NC=2C(=CC=CC2)NC(C2=CC=C(C=C2)Cl)=O)C=C1 | C24H23ClN2O2
